US05866579
5,6,7,8-tetrahydro-3-nitro-6-thia-quinoline.
A mixture of 1-methyl-3,5-dinitro-2-pyridone (0.6 g, 3.0 mmol), tetrahydrothiopyran-4-one (0.35 g, 3.0 mmol) and ammonia solution in methanol (2.0M, 30 mL) was refluxed for 6 h. The solvent was removed in vacuo and the residue was dissolved in ethyl acetate. The soluble portico was flash chromatographed over silica pel (eluent: 90:1 v/v ethyl acetate-hexane) to give a yellow solid (0.586 g, 99% yield).

reactant | 1-methyl-3,5-dinitro-2-pyridone | 3.0 mmol, 0.6 g | CN1C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C6H5N3O5
reactant | tetrahydrothiopyran-4-one | 3.0 mmol, 0.35 g | S1CCC(CC1)=O | C5H8OS
reactant | ammonia | N | H3N
solvent | methanol | 2.0M, 30 mL | CO | CH4O
product | 5,6,7,8-tetrahydro-3-nitro-6-thia-quinoline | 0.586 g, 99% yield | [N+](=O)([O-])C=1C=NC=2CCSCC2C1 | C8H8N2O2S
